US07141561B2
1-Benzylidene-2-(4-phenoxyphenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]-semicarbazide
Phosgene (20% in toluene; 0.091 mL) was added dropwise to a solution of N-benzylidene-N′-(4-phenoxyphenyl)hydrazine (50 mg) in toluene (1 mL) at 0° C. After 24 hours at room temperature, 4-(2-dimethylaminoethoxy)aniline (31 mg) was added. After two hours, the crystals which had separated out were filtered off with suction. The product with the molecular weight of 494.60 (C30H30N4O3); MS (ESI): 495 ([M+H]+), was obtained in this way.

reactant | Phosgene | 0.091 mL | C(=O)(Cl)Cl | CCl2O
reactant | N-benzylidene-N′-(4-phenoxyphenyl)hydrazine | 50 mg | C(C1=CC=CC=C1)=NNC1=CC=C(C=C1)OC1=CC=CC=C1 | C19H16N2O
reactant | 4-(2-dimethylaminoethoxy)aniline | 31 mg | CN(CCOC1=CC=C(N)C=C1)C | C10H16N2O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Benzylidene-2-(4-phenoxyphenyl)-4-[4-(2-dimethylaminoethoxy)phenyl]-semicarbazide | C(C1=CC=CC=C1)=NN(C(=O)NC1=CC=C(C=C1)OCCN(C)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C30H30N4O3
